US06872731B2
4-Chloropyridine-2-carboxylic acid methyl ester hydrochloride (25 g, 0.12 mol) was dissolved in methanol (200 ml) and heated at reflux for 66 h. The solvent was evaporated and the residue partitioned between dichloromethane and saturated sodium hydrogencarbonate solution. The organic layer was washed with brine, dried over sodium sulphate and concentrated to give 4-methoxypyridine-2-carboxylic acid methyl ester (17.6 g, 88%) as a yellow crystalline solid. 1H NMR (360 MHz, CDCl3) δH 3.91 (3H, s), 4.02 (3H, s), 6.98 (1H, dd, J 3 and 6), 7.67 (1H, d, J 3), 8.54 (1H, d, J 6).

reactant | 4-Chloropyridine-2-carboxylic acid methyl ester hydrochloride | 0.12 mol, 25 g | Cl.COC(=O)C1=NC=CC(=C1)Cl
reactant | methanol | 200 ml | CO | CH4O
product | 4-methoxypyridine-2-carboxylic acid methyl ester | 17.6 g, 88% | COC(=O)C1=NC=CC(=C1)OC | C8H9NO3
